US04130414
1-(2-pyridyl)-3-(1,2,3-thiadiazole-5-yl)-urea
16.5 g (0.075 mol) 5-phenoxycarbonylamino-1,2,3-thiadiazole are suspended in 150 ml acetone and reacted with 9.4 g (0.1 mol) of 2-aminopyridine. The reaction mass is then refluxed for 3 hours. After cooling to room temperature the formed light brown crystals are removed by suction and dried. They are then recrystallized from ethanol. There is thus obtained the above noted title compound (compound No. 1).

reactant | 5-phenoxycarbonylamino-1,2,3-thiadiazole | 0.075 mol, 16.5 g | O(C1=CC=CC=C1)C(=O)NC1=CN=NS1 | C9H7N3O2S
reactant | 2-aminopyridine | 0.1 mol, 9.4 g | NC1=NC=CC=C1 | C5H6N2
solvent | acetone | 150 ml | CC(=O)C | C3H6O
product | 1-(2-pyridyl)-3-(1,2,3-thiadiazole-5-yl)-urea | N1=C(C=CC=C1)NC(=O)NC1=CN=NS1 | C8H7N5OS
